Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L sided weakness, dysarthria
 
Major Surgical or Invasive Procedure:
Transesophageal echocardiogram.

 
History of Present Illness:
The patient is a ___ yo ___ -speaking woman, pmh of
bronchiectasis, transfer from OSH for Left sided weakness and
dysarthria. 

Per patient and family at bedside, at 16:30, she sat down to eat
and she felt lightheaded.  She noticed that she had difficulty
opening both eyes and felt that it was harder to open her right
eye.  She also noticed that her vision was darkening, more so on
the right eye.  She also had difficulty lifting up her head to
eat.  

Her husband came into the room.  He said that she wasn't 
talking,
but then explains she was talking softly and groaning. She 
denies
difficultly talking, but explains she was talking softly.  He
called ___ and was taken to OSH ED.  She felt that her right 
face
and right eye was weak, lasting ~ 30 mins. She denied weakness 
in
her arms or legs. She denied difficultly talking. She felt
sleepy, and has been more fatigued recently with  cold.  She was
then sent via ambulance to ___ and she felt that she
felt that she felt better in that ambulance ride.  And she feels
that she is currently back to her baseline. Family is anxious 
and
are hoping for MRI in ED. 

Per outside hospital ED records: 
She presented with a left facial droop, left flaccid 
hemiparesis,
right gaze preference, dysarthria, and neglect, for which  she
had a ___ stroke scale 15.  She got a noncontrast head CT 
showing
right sulcal effacement concerning for right MCA.  TPA was 
mixed.
Tele-stroke was activated, and at this time, symptoms resolved
and she had a mild left facial droop.  TPA was declined.  She 
was
transferred to ___ for inperson neuro evaluation and
possible MRI.

 
Past Medical History:
Bronchiectasis
 
Social History:
___
Family History:
No history of stroke or MI 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental Status - Awake, alert, oriented x 3. Attention to
examiner easily maintained. Recalls a coherent history. Able to
recite months of year backwards. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias.  Normal prosody. No dysarthria.
Verbal registration and recall ___. No apraxia. No evidence of
hemineglect. No left-right confusion.

- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.
================================
DISCHARGE EXAM:
Unchanged from admission; nonfocal. 
 
Pertinent Results:
___ 05:02AM BLOOD WBC-6.3 RBC-5.95* Hgb-11.8 Hct-40.1 
MCV-67* MCH-19.8* MCHC-29.4* RDW-14.6 RDWSD-34.5* Plt ___
___ 06:50AM BLOOD WBC-4.6 RBC-5.90* Hgb-12.5 Hct-40.6 
MCV-69* MCH-21.2* MCHC-30.8* RDW-14.9 RDWSD-35.9 Plt ___
___ 09:20AM BLOOD ___ PTT-28.6 ___
___ 09:20AM BLOOD Lupus-PND AT-PND ProtCFn-PND ProtSFn-PND
___ 06:50AM BLOOD Glucose-107* UreaN-11 Creat-0.7 Na-139 
K-4.2 Cl-104 HCO3-24 AnGap-15
___ 05:02AM BLOOD CK(CPK)-54
___ 05:02AM BLOOD CK-MB-1 cTropnT-<0.01
___ 05:02AM BLOOD VitB12-487
___ 05:02AM BLOOD %HbA1c-5.3 eAG-105
___ 10:30PM BLOOD %HbA1c-5.4 eAG-108
___ 05:02AM BLOOD Triglyc-93 HDL-50 CHOL/HD-2.7 LDLcalc-66
___ 05:02AM BLOOD TSH-7.4*
___ 06:50AM BLOOD Free T4-1.3
___ 05:02AM BLOOD ___
___ 10:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:02AM BLOOD SED RATE- 9      
___ 09:20AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 09:20AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-Negative
___ 10:30PM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:30PM URINE RBC-10* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 10:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

Imaging: 
___ CT head/neck: 1. No intracranial hemorrhage or loss 
of
gray-white differentiation to suggest acute infarction. 
2. There is no stenosis, dissection, occlusion, or aneurysm
greater than 3 mm in the great vessels of the head or neck.

___ MRI brain:1.  Study is moderately degraded by motion. 

2. Acute to subacute infarction involving the posterior limb of
the right internal capsule/ globus pallidus. 
3. No intracranial hemorrhage or midline shift. 
4. Mild paranasal sinus disease. 

      
___ ___: No evidence of deep venous thrombosis in the 
right or left lower extremity veins.

___ MRV pelvis: 
MRV of the pelvis demonstrates no deep venous thrombosis.

 
Brief Hospital Course:
Ms. ___ was admitted with acute onset of dizziness, abnormal 
facial movement (unclear which side, Ms. ___ noted R facial 
abnormality, ED noted L facial droop), L hemiparesis and L 
neglect. Initial NIHSS 15. The left-sided neglect may
explain why she did not note these deficits.  This presentation 
was concerning for a right MCA syndrome.  As she was about to 
receive tPA, her symptoms spontaneously resolved and she was 
subsequently at her neurologic baseline throughout her 
admission. MRI revealed acute infarct of the posterior limb of 
the right internal capsule and also the globus pallidus. Suspect 
initial larger area of ischemia with spontaneous dissolution of 
presumed embolus. She may have had embolus to the right central 
retinal artery (explaining the transient loss of vision of the 
right eye). Given lack of vascular risk factors and 
distribution, there was concern for hypercoagulable state vs 
paradoxical embolus vs cardioembolus. TEE showed PFO. ___ and 
MRV pelvis showed no thrombus. She was discharged with ___ of 
hearts monitor after telemetry showed no evidence of 
tachyarrhythmia while inpatient. 
Hypercoagulable workup was sent. 

She was discharged on ASA 81. Oral contraceptives were stopped 
and patient instructed to use barrier methods. 

========================
Transitional Issues: 
[ ] She should never again receive estrogen-containing 
contraceptives. Progesterone-only methods are acceptable. 

===============================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 66) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tiotropium Bromide 1 CAP IH DAILY takes prn 
2. Tri-Previfem (28) (norgestimate-ethinyl estradiol) 
0.18/0.215/0.25 mg-35 mcg (28) oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Tiotropium Bromide 1 CAP IH DAILY takes prn  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke - right thalamus and basal ganglia
Patent foramen ovale

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of abnormal facial 
movement and difficulty using your left side resulting from an 
ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  Thankfully, your symptoms resolved on their own, 
though you still have a residual small area of stroke in the 
right thalamus and basal ganglia. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
An abnormal connection between the left and right sides of the 
heart (patent foramen ovale, or PFO). This can lead to a 
paradoxical embolus that travels to the brain (instead of the 
lungs).

Your ultrasound of your legs did not show blood clots in the 
legs.
 
Your MRV of the pelvis was negative for any blood clots. 

Your labs to check for a blood clotting disorder are still 
pending.

We are changing your medications as follows:  
Start taking baby aspirin daily
STOP oral contraception (estrogen can increase risk of stroke). 
Use progesterone only method, IUD or barrier methods - discuss 
options with your gynecologist.
  
Please take your other medications as prescribed.  

Please followup with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___